US08614206B2
To a solution of (Z)-1-(1-methyl-4-nitro-1H-pyrazol-5-yl)cyclohept-4-enol (1.35 g, 5.70 mmol) in dry DCM (60 mL) was added dropwise a solution of deoxo-Fluor® (50% in THF, 6.2 mL, 17.1 mmol) and the reaction mixture was stirred at room temperature for 90 min. The mixture was cooled to 0° C. and saturated aqueous NaHCO3 solution (70 mL) was added, dropwise initially, and extracted with DCM (100 mL). The organic layer was separated, dried over MgSO4, and concentrated under reduced pressure. Purification via silica gel column chromatography (15-20% EtOAc/hexane) gave 5-((1E,4Z)-cyclohepta-1,4-dienyl)-1-methyl-4-nitro-1H-pyrazole as a pale yellow oil (523 mg, 42%). 1H NMR (400 MHz, CDCl3) δ 8.06 (s, 1H), 5.90 (t, J=5.6 Hz, 1H), 5.88-5.79 (m, 1H), 5.71-5.63 (m, 1H), 3.82 (s, 3H), 3.14-3.08 (m, 2H), 2.62-2.55 (m, 2H), 2.44-2.37 (m, 2H).

reactant | (Z)-1-(1-methyl-4-nitro-1H-pyrazol-5-yl)cyclohept-4-enol | 5.70 mmol, 1.35 g | CN1N=CC(=C1C1(CC\C=C/CC1)O)[N+](=O)[O-] | C11H15N3O3
reactant | deoxo-Fluor | COCCN(CCOC)S(F)(F)F | C6H14F3NO2S
reactant | NaHCO3 | 70 mL | C(=O)(O)[O-].[Na+]
solvent | DCM | 60 mL | C(Cl)Cl | CH2Cl2
solvent | THF | C1CCOC1 | C4H8O
product | 5-((1E,4Z)-cyclohepta-1,4-dienyl)-1-methyl-4-nitro-1H-pyrazole | 523 mg, 42% | C\1(=C\C\C=C/CC1)/C1=C(C=NN1C)[N+](=O)[O-] | C11H13N3O2
